US07192657B2
A mixture of 2,5-dibromo-N′-[4-(octyloxy)benzoyl]benzohydrazide (39.1 g, 0.0743 mol) and phosphorus oxychloride (203 mL) was refluxed for 8 hrs. Unreacted phosphorus oxychloride was distilled off and the residue poured onto crushed ice. The precipitated solid was collected by filtration and re-crystallized from EtOH/water to give 33.6 g (89% yield) 2-(2,5-dibromophenyl)-5-[4-(octyloxy)phenyl]1,3,4-oxadiazole.

reactant | 2,5-dibromo-N′-[4-(octyloxy)benzoyl]benzohydrazide | 0.0743 mol, 39.1 g | BrC1=C(C(=O)NNC(C2=CC=C(C=C2)OCCCCCCCC)=O)C=C(C=C1)Br | C22H26Br2N2O3
solvent | phosphorus oxychloride | 203 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(2,5-dibromophenyl)-5-[4-(octyloxy)phenyl]1,3,4-oxadiazole | 33.6 g, 89% yield | BrC1=C(C=C(C=C1)Br)C=1OC(=NN1)C1=CC=C(C=C1)OCCCCCCCC | C22H24Br2N2O2
